US08071584B2
5-(3,5-Dimethyl-1H-pyrazol-4-yl)-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide
4-Bromo-3,5-dimethyl-1H-pyrazole (35 mg, 0.2 mmol), 3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide (30 mg, 0.072 mmol) and K2CO3 (50 mg, 0.36 mmol) was taken up in a 3:1 mixture of 1,4-dioxane/water (2 mL) in a microwave vial. The mixture was degassed by bubbling argon through it for 5 min. PdCl2(dppf) (8 mg, 0.011 mmol) was added, and the reaction was heated in a microwave for 10 min at 120° C. The reaction mixture was concentrated, diluted in DMSO, and purified on a Gilson HPLC (NH4OH buffer), giving 3 mg (11%) of the title compound.

reactant | 4-Bromo-3,5-dimethyl-1H-pyrazole | 0.2 mmol, 35 mg | BrC=1C(=NNC1C)C | C5H7BrN2
reactant | 3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole-7-carboxamide | 0.072 mmol, 30 mg | O=S1(CCC(CC1)C1=CNC2=C(C=C(C=C12)B1OC(C(O1)(C)C)(C)C)C(=O)N)=O | C20H27BN2O5S
reactant | K2CO3 | 0.36 mmol, 50 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) | 0.011 mmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane water | 2 mL | O1CCOCC1.O
product | 5-(3,5-Dimethyl-1H-pyrazol-4-yl)-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 3 mg, 11% | CC1=NNC(=C1C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O)C | C19H22N4O3S
